### ISSUE TITLE
abel_nf: PANIC at Lean.isLevelMVarAssignable Lean.MetavarContext:412:14: unknown universe metavariable

### ISSUE THREAD

**Issue by eric-wieser** [leanprover-community/mathlib4#15785]
```lean
import Mathlib.Tactic

theorem foo (n : ℕ) (h₀ : 0 < n) :
    (∏ x ∈ Finset.Ico 1 (n + 1), x * (x + 1) : ℤ) ∣
      ∏ x ∈ Finset.Ico 1 (n + 1), 1 := by
  induction id h₀
  · sorry
  · abel_nf at *
```
gives
```
PANIC at Lean.isLevelMVarAssignable Lean.MetavarContext:412:14: unknown universe metavariable
```

**Comment by digama0** [comment]
minimized
```lean
import Mathlib.Tactic.Abel

axiom F (s : Nat) (f : Nat → Nat) : Nat
axiom G (a b : Nat) : Nat
@[congr] axiom F_congr {s₁ s₂ : Nat} {f : Nat → Nat} (h : s₁ = s₂) : F s₁ f = F s₂ f 

theorem foo (n : ℕ) (f : Nat → Nat) :
    F (G 1 (n + 1)) (fun x => f x) ≤
    F (G 1 (n + 1)) f := by
  show_term abel_nf
  sorry
```
This is minimal under lots of surprising things, for example `G 0` and `G 2` do not give the error, only `G 1` does.

**Comment by digama0** [comment]
The bug seems to be somewhere in simp, it's rolling back the universe metavariable context after a custom `pre` method assigns some metavariables and returns an expression depending on those metavariables.

**Comment by eric-wieser** [comment]
Thanks for the minimization! If this is a `simp` bug, then I suppose it's possible that https://github.com/leanprover-community/aesop/issues/153 is also a simp bug?

**Comment by digama0** [comment]
Yes, I think that is the same bug. I've minimized it to something mathlib-free and will report it shortly.
